Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
heparin / Lovenox / Dilantin
 
Attending: ___.
 
Chief Complaint:
Fevers  

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ anesthesiologist with history of sagittal venous sinus 
thrombosis in ___ presenting with two weeks of low grade fever, 
night sweats headaches, tachycardia, and tachypnea. Pt noticed 
symptoms initially two weeks ago of fatigue, temperatures in 
100-101 in the evenings. Several days ago he noted tachycardia 
to the ___. Last ___, went to see PCP since symptoms did not 
improve. Labs done showed normal WBC, D-dimer 3430, CRP 8.3, and 
mild transaminitis. UA was negative, IgG and IgM CMV was 
positive, EBV pending. Pt started himself on rivaroxuban 10mg in 
AM and 20 mg in ___ out of concern for PE. (now day 4 of 
anticoagulation). On ___ pt also developed dry cough,  
malaise, myalgias, so started himself on levaquin 750mg (today 
day 3 of antibiotics) although he noted no improvement of 
symptoms. Pt denies HA since starting anticoagulation, changes 
in vision, SOB. Pt sent today by PCP to expedite workup and 
imaging.  Of note, pt is from ___, had multiple TB tests in 
the past negative (last PPD in ___. No recent international 
travel.

In the ED, initial vs were: 98.6 93 121/75 18 96% RA. Labs were 
remarkable for ALT 135, AST, 55. Rest of LFTs wnl. CBC, chem-7, 
UA, CTA of chest were all unremarkable w/ exception of monocytic 
predominance of CBC differential.

Vitals on Transfer: 97.6 90 115/79 18 96% RA   
 
On the floor, vs were: T 98 P 76 BP 102/68 R 16 O2 sat 99% on 
RA. He is resting comfortably in bed. Denies any current 
headaches, SOB, fevers or chills.  
 
Review of systems:  
(+) Per HPI  - one episode of diarrhea yesterday
(-) Denies recent weight loss or gain. Denies  sinus tenderness, 
rhinorrhea or congestion. Denies  shortness of breath. Denies 
chest pain or tightness, palpitations. Denies nausea, vomiting, 
constipation or abdominal pain.  No dysuria. Denies arthralgias. 
Ten point review of systems is otherwise negative.  
 

 
Past Medical History:
sagittal venous thromobosis, s/p thrombectomy
 

 
Social History:
___
Family History:
Father with DVT after long flight

 
Physical Exam:
ON ADMISSION:
============
Vitals: T 98 P 76 BP 102/68 R 16 O2 sat 99% on RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI  
Neck: supple, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, no rebound tenderness 
or guarding, no hepatomegaly by exam
Ext: Warm, well perfused   
Skin:  no lesions
Neuro:  AOx3, moving all extremities purposefully
 
ON DISCHARGE:
==============
Vitals: T: 98.1 BP:105/71 P:81 R:18 O2: 100%RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi, dry non-productive cough  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema    
Neuro:  Alert, oriented X3, ST memory intact, EOMI, PERRL 
 
Pertinent Results:
ON ADMISSION:
=============
___ 07:20AM BLOOD WBC-7.4 RBC-5.31 Hgb-15.5 Hct-46.3 MCV-87 
MCH-29.2 MCHC-33.5 RDW-12.5 Plt ___
___ 11:13AM BLOOD Neuts-38* Bands-0 ___ Monos-21* 
Eos-3 Baso-0 ___ Myelos-0
___ 11:13AM BLOOD ___ PTT-50.6* ___
___ 11:13AM BLOOD Glucose-83 UreaN-14 Creat-1.0 Na-139 
K-4.5 Cl-104 HCO3-25 AnGap-15
___ 11:13AM BLOOD ALT-135* AST-55* AlkPhos-118 TotBili-0.4
___ 11:13AM BLOOD Albumin-4.4
___ 11:22AM BLOOD Lactate-1.4

RADIOLOGY:
==========
CTA ___:
CT Thorax:  The airways are patent to the subsegmental level.  
There is no mediastinal, hilar, or axillary lymph node 
enlargement by CT size criteria.  The heart, pericardium, and 
great vessels are within normal limits.  No hiatal hernia seen.  
Lung windows demonstrate a 4 mm right upper lobe pulmonary 
nodule (2:33).  No additional pulmonary nodules seen. There is 
no pleural effusion or pneumothorax.   
  
CTA Thorax:  The aorta and main thoracic vessels are well 
opacified.  The 
aorta demonstrates normal caliber throughout the thorax without 
intramural hematoma or dissection.  There is no filling defect 
to suggest pulmonary embolism.  Osseous structures: No blastic 
or lytic lesions suspicious for malignancy.  
  
Although this study is not designed for assessment of 
intra-abdominal 
structures, the visualized solid organs and stomach are 
unremarkable.   
  
IMPRESSION: 
  
1. No evidence of pulmonary embolism or pneumonia.  
  
2. 4mm right upper lobe pulmonary nodule. If no risk factors for 
malignancy, including history of smoking, then no additional 
follow-up needed. If risk factors then follow-up chest CT in ___ 
year is recommended.  

RUQ WITH DOPPLERS ___:
FINDINGS:  The liver is normal in size, echogenicity, and 
architecture.  There
is no focal liver lesion.  The gallbladder is normal and there 
are no stones
or sludge.  There is no intra- or extra-hepatic biliary ductal 
dilatation and
the common bile duct measures 2 mm.  The pancreas is not well 
visualized. 
There is no ascites.
 
The main, left, and the right portal veins are patent with 
hepatopetal flow. 
The main, left, and right hepatic arteries are patent with sharp 
systolic
upstroke and antegrade diastolic flow.  The right, middle, and 
left hepatic
veins are patent with antegrade flow.
 
IMPRESSION:  Normal liver duplex ultrasound.  

ON DISCHARGE:
=============

___ 07:20AM BLOOD WBC-7.4 RBC-5.31 Hgb-15.5 Hct-46.3 MCV-87 
MCH-29.2 MCHC-33.5 RDW-12.5 Plt ___
___ 07:20AM BLOOD ___ PTT-42.3* ___
___ 07:20AM BLOOD Glucose-94 UreaN-13 Creat-1.0 Na-137 
K-4.7 Cl-103 HCO3-24 AnGap-15
___ 07:20AM BLOOD ALT-122* AST-51* LD(LDH)-291* AlkPhos-115 
TotBili-0.___ anesthesiologist with history of sagittal venous sinus 
thrombosis in ___ presenting with two weeks of low grade fever, 
headache, night sweats, tachycardia, and tachypnea.
 
#  Fevers/Tachycardia/Tachypnea: Pt with two weeks of fevers and 
malaise as well as several days of tachycardia, tachypnea and 
dry cough, night sweats and headache. Pt had prescribed himself 
short course of levoflox for atypical pneumonia with no 
improvement of symptoms.  CTA in ED negative for PE or 
pneumonia. Pt found to have positive IgG and IgM CMV 
antibiodies, making CMV mononucelosis most likely diagnosis. CBC 
Differential significant for increased monocytes, most likely 
from CMV. Previous differential from ___ includes atypical 
lymphs. Although patient endorses cough and nightsweats and has 
a 4mm nodule seen on CT, he denies weight loss, denies 
hemoptisis, denies known exposure and does not have cavitary 
lesions making TB unlikely.  On discharge, his symptoms were 
improved. EBV and HIV testing pending on discharge
 
#  H/o sagittal venous sinus thrombosis: Pt is s/p thrombectomy 
after venous sinus thrombosis in ___. He was treated with 
riveroxiban for ___ years. He had followed up with hematology 
and neurology. No coagulation d/o was diagnosed. When pt began 
experiencing headaches as an outpatient, he prophylactically 
restarted rivaroxiban and stated his headaches improved. Denies 
vision changes, weakness, or seizures. Given lack of symptoms or 
focal neurological deficits on exam, no MRV was performed. Based 
on guidelines, pt's with sinus venous thrombosis without 
identified coagulation disorder should be anticogulated for 6 mo 
after event. Given pt's thrombosis was in ___, advised pt to 
stop rivaroxiban and follow up with his outpatient hematologist.

#  Transaminitis: Pt with mildly elevated LFTs which have 
uptrended since ___. Most likely mild viral hepatitis in setting 
of CMV infection. However, given his hx of thrombosis and 
possible coagulation d/o,a RUQ ultrasound was performed that 
showed no show evidence of thrombosis.

TRANSITIONAL ISSUES:
[ ] Pt had HIV test to rule out immunocompromise given his CMV 
infection. This result was pending at discharge and should be 
follow up. EBV testing also pending
[ ] Based on guidelines, pt's with sinus venous thrombosis 
without identified coagulation disorder should be anticogulated 
for 6 mo after event. Given pt's thrombosis was in ___, advised 
pt to stop rivaroxiban and follow up with his outpatient 
hematologist
[ ] Pt had mild transaminits in setting of CMV infection, should 
have LFTs rechecked as an outpatient to monitor for improvement
[ ] 4mm nodule found on CT scan. Pt denies any risk factors such 
as smoking or hx of malignancy and per radiology recommendations 
does not need further imaging
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 10 mg PO BREAKFAST 
2. Rivaroxaban 20 mg PO HS 

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CMV mononucelosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___ was a pleasure taking care of you during your 
stay at ___. You were admitted to the hospital for 
fevers, tachycardia and tachypnea most likely secondary to CMV. 
You had a RUQ ultrasound as well as CTA which were reassuring. 
Please follow up with your outpatient providers.
 
Followup Instructions:
___